US04730005
A solution of 5-hexynyl alcohol (102 mmoles) in pyridine (150 ml), under argon, was cooled to 0° C. and p-toluenesulfonyl chloride (204 mmoles) was added. The reaction mixture was kept at about 4° C. for 18 hours, poured into ice-water and then taken up in ether. The ether extract was washed with cold 10% hydrochloric acid, water and brine. The organic layer was dried and concentrated in vacuo to give 5-hexynyl p-toluenesulfonate. A solution of phenylacetylene (97 mmoles) in tetrahydrofuran (200 ml) containing a trace of triphenylmethane was cooled to 0° C. and then n-butyl lithium (37.3 ml of 2.6 moles in hexane) was added dropwise. The resulting solution was stirred at 0° C. for 10 minutes and hexamethylphosphoramide (21 ml) was added dropwise. After stirring for 10 minutes a solution of 5-hexynyl p-toluenesulfonate (97.1 mmoles) in tetrahydrofuran (200 ml) was added. The reaction mixture was stirred for 18 hours, diluted with ether and the organic layer was washed with water and brine. The dried organic solution was concentrated and the product was purified by flash chromatography to give 1-phenylocta-1,7-diyne. A mixture of this compound (43 mmoles), 2-bromobenzaldehyde (35.8 mmoles), cuprous iodide (0.5 mmoles) and bis(triphenylphosphine) palladium chloride (0.7 mmoles) in triethylamine (100 ml) was heated in an oil bath (95° C.) for one hour. The reaction mixture was cooled to 0° C., filtered and the filtrate was concentrated. The residue was dissolved in ether, washed with 10% hydrochloric acid, water and brine. The organic layer was dried and concentrated to give a product which was purified by flash chromatography to yield 2-(8-phenyloctadiyn-1,7-yl)benzaldehyde. A solution of this compound (24.1 mmoles) in ethyl acetate (100 ml) and 10% palladium on charcoal (1 g) was hydrogenated (40 psi of hydrogen) at room temperature for 15 minutes. The catalyst was filtered off and the filtrate concentrated to give the 2-(8-phenyloctyl)benzaldehyde.

reactant | 5-hexynyl alcohol | 102 mmoles | C(CCCC#C)O | C6H10O
reactant | p-toluenesulfonyl chloride | 204 mmoles | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 5-hexynyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCCCC#C)C | C13H16O3S
